US08629137B2
Step 1: 4-bromo-2,6-dimethylphenyldiazonium tetrafluoroborate
21.2 g (0.104 mol) 4-bromo-2,6-dimethylaniline in 58.0 mL (0.444 mol) tetrafluoroboric acid (48% in water) were diluted with water to form a stirrable suspension. 7.18 g (0.104 mol) sodium nitrite, dissolved in water, were slowly added dropwise to the reaction mixture which was cooled to 0° C. After the addition had ended the mixture was stirred for 1 h at RT. The product precipitated as a solid was suction filtered, washed three times with diethyl ether and dried.

reactant | 4-bromo-2,6-dimethylaniline | 0.104 mol, 21.2 g | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
reactant | tetrafluoroboric acid | 0.444 mol, 58.0 mL | F[B-](F)(F)F.[H+]
reactant | sodium nitrite | 0.104 mol, 7.18 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 4-bromo-2,6-dimethylphenyldiazonium tetrafluoroborate | F[B-](F)(F)F.BrC1=CC(=C(C(=C1)C)[N+]#N)C | InChI=1S/C8H8BrN2.BF4/c1-5-3-7(9)4-6(2)8(5)11-10;2-1(3,4)5/h3-4H,1-2H3;/q+1;-1
